* bank-bleed: 0.00188 F from 525 V into 8800 ohm
CB p 0 0.00188 ic=525
RD p 0 8800
.tran 0.01339 53.56 0 0.02678 uic
.control
set filetype=ascii
run
wrdata bleed-120kw.out v(p)
quit
.endc
.end