* CT front-end: Ipri_pk=195 A, 1:2500, 13 ohm, 50 Hz
VAV avmid 0 1.65
ICT avmid b SIN(0 0.078 50)
RB b avmid 13
RF b adc 1k
CF adc avmid 1n
VDD vdd 0 3.3
DP adc vdd DCLMP
DN 0 adc DCLMP
.model DCLMP D(Is=1e-9 N=1.05 Rs=1)
.tran 0.000006 0.06 0 0.000003 uic
.option method=gear reltol=1e-4 abstol=1e-9
.control
set filetype=ascii
run
wrdata ctfe-line-50kw-F01.out v(adc) v(b)
quit
.endc
.end