* resonant CT front-end, corrected burden (CB-16): Ipri_pk=65 A
VAV avmid 0 1.65
ICT avmid b SIN(0 0.65 140k)
RB b avmid 2.0
RF b adc 1k
CF adc avmid 220p
VDD vdd 0 3.3
DP adc vdd DCLMP
DN 0 adc DCLMP
.model DCLMP D(Is=1e-9 N=1.05 Rs=1)
.tran 20n 200u 0 10n uic
.option method=gear reltol=1e-4 abstol=1e-9
.control
set filetype=ascii
run
wrdata ctfe-res-65.out v(adc) v(b)
quit
.endc
.end