* bus-discharge: 0.001175 F from 850 V into 640 ohm
CB p 0 0.001175 ic=850
RD p 0 640
.tran 0.0010499999999999997 4.199999999999999 0 0.0020999999999999994 uic
.control
set filetype=ascii
run
wrdata dis-30kw.out v(p)
quit
.endc
.end