* bus-discharge: 0.00141 F from 850 V into 640 ohm
CB p 0 0.00141 ic=850
RD p 0 640
.tran 0.0014 5.6 0 0.0028 uic
.control
set filetype=ascii
run
wrdata dis-40kw.out v(p)
quit
.endc
.end