* bus-discharge: 0.00188 F from 850 V into 640 ohm
CB p 0 0.00188 ic=850
RD p 0 640
.tran 0.00175 7 0 0.0035 uic
.control
set filetype=ascii
run
wrdata dis-50kw.out v(p)
quit
.endc
.end